US04461906
2.0 g of 4-[(3-benzyloxy-4-methoxybenzoyl)amino]butyric acid are heated to reflux for 1 hour in 10 ml of acetic acid anhydride. After evaporation of the acetic acid anhydride, the residue is stirred at room temperature with diethyl ether. The mixture is filtered and the filter residue is washed with diethyl ether. There is obtained 1-(3-benzyloxy-4-methoxybenzoyl)-2-pyrrolidinone of melting point 92°-92° C.

reactant | 4-[(3-benzyloxy-4-methoxybenzoyl)amino]butyric acid | 2.0 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)NCCCC(=O)O)C=CC1OC | C19H21NO5
solvent | acetic acid anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(3-benzyloxy-4-methoxybenzoyl)-2-pyrrolidinone | C(C1=CC=CC=C1)OC=1C=C(C(=O)N2C(CCC2)=O)C=CC1OC | C19H19NO4
